* AMP04E  SPICE Macro-model             Rev. A, 5/94
*                                       JCB / PMI
*
* This version of the AMP04 model simulates the worst case
* parameters of the 'E' grade over temperature.  The worst
* case parameters used correspond to those in the data sheet.
*
* Copyright 1994 by Analog Devices
*
* Refer to "README.DOC" file for License Statement.  Use of
* this model indicates your acceptance of the terms and pro-
* visions in the License Statement.

* 25-Jan-05 BC:
*Note 1: Removed L=9E-6 W=2000E-6 from model MN as they aren't required.
*        These values are specified at the device level.
*Note 2: Removed the following pspice parameter from model MN: WD=1E-6
*        From PSPICE guide: Effective Width = W - 2*WD
*        Using this equation the values of W specified for MN have been corrected.

*
* Node assignments
*                Rgain1
*                |  IN-
*                |  |  IN+
*                |  |  |  V-
*                |  |  |  |  REF
*                |  |  |  |  |  Vout
*                |  |  |  |  |  |  V+
*                |  |  |  |  |  |  |  Rgain2
*                |  |  |  |  |  |  |  |
.SUBCKT AMP04E   1  2  3  4  5  6  7  8
*
* INPUT STAGE
*
R1   2    9    2E3
R2   9   11    2E9
R3   11  12    2E9
R4   3   12    2E3
IB1  2   98    50E-9
IB2  3   98    40E-9
VOS  12  13    33E-6
D1   9   10    DY
D2   1   10    DY
D3   12  14    DY
D4   8   14    DY
*
* 1ST AMP GAIN STAGE, POLE AT 0.44 HZ
*
EREF 98   0    60 0 1
G1   98  15    9   1   1E-3
R5   98  15    1E9
C1   98  15    362E-12
* SECOND POLE AT 1 MHZ
G3   98  16    15  98  1E-6
R6   98  16    1E6
C2   98  16    159E-15
* OUTPUT STAGE
E2   22  98    16  98  1
R14  22   1    200
*
* 2ND AMP GAIN STAGE, POLE AT 0.44 HZ
*
G2   98  17    13  23  1E-3
R7   98  17    1E9
C3   98  17    362E-12
* SECOND POLE AT 1 MHZ
G4   98  18    17  98  1E-6
R8   98  18    1E6
C4   98  18    159E-15
* CMRR STAGE
E1   98  19    POLY(2) (2,98) (3,98) 0 28 28
R9   19  20    1E6
R10  20  98    1
* OUTPUT STAGE
E3   21  98    18  98  1
R11  21   8    11E3
R12  21  23    11E3
R13  23   5    100.8E3
*
* OUTPUT AMPLIFIER INPUT STAGE & POLE AT 10 KHZ
*
R15  29   4    5.16E3
R16  28   4    5.16E3
I1   7   30    10UA
EOS  27   3    POLY(1)  20  98  300E-6   1
Q1   29   8    30  QX
Q2   28  27    30  QX
R20  8    6    100.8E3
CIN  28  29    20E-12
*
* SECOND GAIN STAGE AND SLEW CLAMP
*
R71  31  98     1E6
G71  98  31     28  29  48.2E-6
D30  31  32     DX
D40  33  31     DX
E10  7   32     POLY(1) 7  98  -0.5  1
E20  33   4     POLY(1) 98  4  -0.5  1
*
* OUTPUT STAGE
*
RS1  7   60    1E6
RS2  60   4    1E6
ISY  7    4    0.424E-3
*
G7   34  36    31  98  5.5E-06
V3   35   4    DC  6
D7   36  35    DX
VB2  34   4    1.6
R22  37  36    1E3
R23  38  36    500
C6   37   6    50E-12
C7   38  39    50E-12

*See Note 2
*M1   39  36    4   4   MN  L=9E-6  W=1000E-6  AD=15E-9 AS=15E-9
*M2   45  36    4   4   MN  L=9E-6  W=1000E-6  AD=15E-9 AS=15E-9
M1   39  36    4   4   MN  L=9E-6  W=998E-6  AD=15E-9 AS=15E-9
M2   45  36    4   4   MN  L=9E-6  W=998E-6  AD=15E-9 AS=15E-9

V02  39  61    0.2
D8   61  47    DX
D9   47  45    DX
Q3   39  40    41  QPA  8
VB   7   40    DC  0.761
R24  7   41    375
Q4   41   7    43  QNA  1
R25  7   43    50
Q5   43  39    62  QNA  20
V01  62   6    0.2
Q6   46  45    6   QPA  20
R26  46   4    23
Q7   36  46    4   QNA  1

*See Note 2
*M3   63  36    4   4   MN  L=9E-6  W=2000E-6  AD=30E-9 AS=30E-9
M3   63  36    4   4   MN  L=9E-6  W=1998E-6  AD=30E-9 AS=30E-9

V03  6   63    2E-3
*
.MODEL QNA NPN(BF=253)
.MODEL MN NMOS(LEVEL=3 VTO=1.3 RS=0.3 RD=0.3 TOX=8.5E-8
+ LD=1.48E-6 NSUB=1.53E16 UO=650 DELTA=10 VMAX=2E5
+ XJ=1.75E-6 KAPPA=0.8 ETA=0.066 CJ=0)
.MODEL QPA PNP(BF=61.5)
.MODEL QX PNP(BF=12500)
.MODEL DX D
.MODEL DY D(BV=6.0)
.ENDS
